US09382234B2
A solution of methyl 5-chloro-2-methyl-3-(piperidin-4-yloxy)benzoate, hydrochloride (140 mg, 0.437 mmol) and formaldehyde (195 μl, 2.62 mmol) in methanol (3580 μl) and acetic acid (597 μl) was added portion wise sodium triacetoxyborohydride (278 mg, 1.312 mmol). The reaction was stirred for 18 h at RT, at which time it was concentrated. The residue was dissolved in water, neutralized with saturated sodium bicarbonate solution, and extracted with EtOAc (3×25 mL). The combined organic layers were dried over sodium sulfate, filtered, concentrated, and dried under high vacuum to give methyl 5-chloro-2-methyl-3-((1-methylpiperidin-4-yl)oxy)benzoate (0.130 g, 0.437 mmol, 99% yield). 1H NMR (400 MHz, DMSO-d6) δ 1.61-1.73 (m, 2 H) 1.84-1.94 (m, 2 H) 2.18 (s, 3 H) 2.21-2.27 (m, 2 H) 2.28 (s, 3 H) 3.83 (s, 3 H) 4.54 (dt, J=7.14, 3.63 Hz, 1 H) 7.29 (d, J=2.02 Hz, 1 H) 7.32 (d, J=2.02 Hz, 1 H). MS(ES) [M+H]+ 298.1.

reactant | methyl 5-chloro-2-methyl-3-(piperidin-4-yloxy)benzoate, hydrochloride | 0.437 mmol, 140 mg | Cl.ClC=1C=C(C(=C(C(=O)OC)C1)C)OC1CCNCC1
reactant | formaldehyde | 2.62 mmol, 195 μl | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.312 mmol, 278 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 3580 μl | CO | CH4O
solvent | acetic acid | 597 μl | C(C)(=O)O | C2H4O2
product | methyl 5-chloro-2-methyl-3-((1-methylpiperidin-4-yl)oxy)benzoate | 0.437 mmol, 0.130 g, 99% yield | ClC=1C=C(C(=C(C(=O)OC)C1)C)OC1CCN(CC1)C | C15H20ClNO3
